US07763758B2
e) Preparation of N-benzylidene-N-[3-(diisobutylphosphino)propyl]amine (L-10)
Under argon, a solution of 3-diisobutylphosphino-propylamine (428.5 mg, 2.11 mmol) and benzaldehyde (226.9 mg, 2.14 mmol) in ethanol (15 mL) was heated at 65° C. (oil bath) for 4 h. Then, the solvent was removed in-vacuo to give the desired product (>98% by 1H-NMR) as a colourless liquid (614.1 mg, 2.1 mmol, quantitative).

reactant | 3-diisobutylphosphino-propylamine | 2.11 mmol, 428.5 mg | C(C(C)C)P(CCCN)CC(C)C | C11H26NP
reactant | benzaldehyde | 2.14 mmol, 226.9 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | N-benzylidene-N-[3-(diisobutylphosphino)propyl]amine | >98% | C(C1=CC=CC=C1)=NCCCP(CC(C)C)CC(C)C | C18H30NP
